US07635684B2
4-(2-Acetoxyethyl)-1-[3-(2-nitrobenzenesulfonylamino)-propionyl]piperazine
To a solution of 4-(2-hydroxyethyl)-1-[3-(2-nitrobenzenesufonylamino)propionyl]piperazine (1.15 g) and pyridine (1.47 mL) in dichloromethane (10 mL) was added acetic anhydride (1.72 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/2-dichloromethane/methanol=10/1) to give the title compound (0.38 g).

reactant | 4-(2-hydroxyethyl)-1-[3-(2-nitrobenzenesufonylamino)propionyl]piperazine | 1.15 g | OCCN1CCN(CC1)C(CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C15H22N4O6S
reactant | pyridine | 1.47 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.72 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(2-Acetoxyethyl)-1-[3-(2-nitrobenzenesulfonylamino)-propionyl]piperazine | 0.38 g | C(C)(=O)OCCN1CCN(CC1)C(CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C17H24N4O7S
